US04014677
12.2 g of 2-chloro-4-sec. butylamino-5-nitro-6-methylpyrimidine (0.05 mole) are dissolved in 200 ml of alcohol and 10 ml of triethylamine are added to this solution. The reaction mixture is heated to reflux temperature and then 4.5 g of methylmercaptan (0.094 mole) are passed in. Subsequently 1.2 g of sodium hydride (0.05 mole) are added at 70° C and the mixture is refluxed for 1 hour. After the reaction mixture has cooled, the sodium chloride precipitate is filtered off with suction and the filtrate is evaporated to yield 11.7 g of 2-methylthio-4-sec.butylamino-5-nitro-6-methylpyrimidine of m.p. 37°-41° C (= 91.5% yield). On recrystallisation from petroleum ether, the melting point of the product rises to 48°-50° C.

reactant | 2-chloro-4-sec. butylamino-5-nitro-6-methylpyrimidine | 0.05 mole, 12.2 g | ClC1=NC(=C(C(=N1)NC(C)CC)[N+](=O)[O-])C | C9H13ClN4O2
reactant | methylmercaptan | 0.094 mole, 4.5 g | CS | CH4S
reactant | sodium hydride | 0.05 mole, 1.2 g | [H-].[Na+]
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 2-methylthio-4-sec.butylamino-5-nitro-6-methylpyrimidine | 11.7 g, 91.5% yield | CSC1=NC(=C(C(=N1)NC(C)CC)[N+](=O)[O-])C | C10H16N4O2S
